US09328117B2
A solution of methyl 6-chloro-3-methyl-[1,2,4]triazolo[4,3-b]pyridazine-8-carboxylate (2.0 g, 8.85 mmol) and (S)-N-methyl-1-phenylethanamine (2.39 g, 17.7 mmol; commercially available from Aldrich) in DMSO (20 mL) was heated at 130° C. in a microwave tube for 30 min. Water (100 mL) was added to the reaction mixture, and the product was extracted with EtOAc (3×100 mL). The combined EtOAc layers were concentrated and the residue was purified by flash chromatography (silica gel, 1% to 10% MeOH in CH2Cl2) to give the (S)-methyl 3-methyl-6-(methyl(1-phenylethyl)amino)-[1,2,4]triazolo[4,3-b]pyridazine-8-carboxylate (400 mg, 15% yield). LRMS [M+H]+: 325 m/z.

reactant | methyl 6-chloro-3-methyl-[1,2,4]triazolo[4,3-b]pyridazine-8-carboxylate | 8.85 mmol, 2.0 g | ClC=1C=C(C=2N(N1)C(=NN2)C)C(=O)OC | C8H7ClN4O2
reactant | (S)-N-methyl-1-phenylethanamine | CN[C@@H](C)C1=CC=CC=C1 | C9H13N
reactant | Water | 100 mL | O | H2O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | (S)-methyl 3-methyl-6-(methyl(1-phenylethyl)amino)-[1,2,4]triazolo[4,3-b]pyridazine-8-carboxylate | 400 mg, 15% yield | CC1=NN=C2N1N=C(C=C2C(=O)OC)N([C@@H](C)C2=CC=CC=C2)C | C17H19N5O2
